US06121308
c. 2-[(4-cyanophenyl)methylthio]-6-(N-quinoline-8-sulphonylamino)-benzothiazole
A mixture of 2.3 g (7.74 mmol) of 2-[(4-cyanophenyl)methylthio]-6-amino-benzothiazole and 1.85 g (8.1 mmol) of quinoline-8-sulphonic acid chloride is stirred in 30 ml of pyridine for 2 hours at ambient temperature. Then the solvent is distilled off in vacuo and the crude product is purified by flash chromatography (silica gel, methylene chloride/ethanol=99:1).

reactant | 2-[(4-cyanophenyl)methylthio]-6-amino-benzothiazole | 7.74 mmol, 2.3 g | C(#N)C1=CC=C(C=C1)CSC=1SC2=C(N1)C=CC(=C2)N | C15H11N3S2
reactant | quinoline-8-sulphonic acid chloride | 8.1 mmol, 1.85 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(4-cyanophenyl)methylthio]-6-(N-quinoline-8-sulphonylamino)-benzothiazole | C(#N)C1=CC=C(C=C1)CSC=1SC2=C(N1)C=CC(=C2)NS(=O)(=O)C=2C=CC=C1C=CC=NC21 | C24H16N4O2S3
